US08735390B2
Tricyclohexylphosphine (0.1191 g, 0.425 mmol, 0.008 eq, 0.008 wt) and Pd2(dba)3 (0.1438 g, 0.157 mmol, 0.003 eq, 0.01 wt) are mixed together and then toluene (15.00 mL, 1 vol, 0.86 wt, sparged with nitrogen for 1 hr) is added. The mixture is stirred and heated to 40-45° C. for 45 mins before being allowed to cool back to room temp and sit under nitrogen to give an orange-gold solution with suspended black particulates. In a separate vessel, N-(5-bromo-2-methoxypyridin-3-yl)methanesulfonamide (15.0323 g, 53.5 mmol, 1 wt, 1 eq), bis(pinacolato)diboron (16.2962 g, 64.2 mmol, 1.2 eq, 1.08 wt) and potassium acetate (10.4879 g, 107 mmol, 2 eq, 0.70 wt) are mixed together with toluene (150 mL, 10 vols, 8.6 wt). The resultant slurry is stirred and heated to 90° C. under a flow of nitrogen. Having reached the desired temperature, the catalyst mixture is added over 10 minutes followed by a wash of toluene (7.50 mL, 0.5 vol, 0.43 wt). The mixture is stirred at 90° C. for at least one hour and then sampled for HPLC analysis. Once complete, the reaction mixture is cooled to 50° C. and filtered to remove inorganic material. The filtered solid is washed with toluene (2×15 mL, 2×1 vol, 2×0.86 wt) and the liquors and washes combined and distilled down to 5 vols. The product solution is allowed to cool to room temperature by which stage it has become a slurry. Heptane (75 mL, 5 vols, 3.4 wt) is slowly added to the slurry. The slurry is aged and the supernatant analysed by HPLC to ensure sufficient crystallisation has occurred. The slurry is filtered and the solid product is washed with 1:1 toluene:heptane (2×15 mL, 2×1 vol) and dried under vacuum at 40-50° C. to afford N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)methanesulfonamide as an off-white solid.

reactant | N-(5-bromo-2-methoxypyridin-3-yl)methanesulfonamide | 53.5 mmol, 15.0323 g, 1 eq | BrC=1C=C(C(=NC1)OC)NS(=O)(=O)C | C7H9BrN2O3S
reactant | bis(pinacolato)diboron | 64.2 mmol, 16.2962 g, 1.2 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 107 mmol, 10.4879 g, 2 eq | C(C)(=O)[O-].[K+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)methanesulfonamide | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
